US04051148
To a boiling solution of 27.5 g of 3-benzylmercapto-4-carbomethoxy benzaldehye in 250 ml of methanol is added a solution of 7 g of potassium hydroxide in 24 ml of water. The reaction mixture is refluxed for 3-4 hours, then water is added to a volume of 1 liter. 10 Ml of acetic acid is added and the thus-obtained slurry is cooled, filtered, washed with water and air-dried to yield 25 g of 3-benzylmercapto-4-carboxy benzaldehyde, a yellow powder, having a melting point of 182°-190° C.

reactant | 3-benzylmercapto-4-carbomethoxy benzaldehye | 27.5 g | C(C1=CC=CC=C1)SC=1C=C(C=O)C=CC1C(=O)OC | C16H14O3S
reactant | potassium hydroxide | 7 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 24 ml | O | H2O
product | 3-benzylmercapto-4-carboxy benzaldehyde | 25 g | C(C1=CC=CC=C1)SC=1C=C(C=O)C=CC1C(=O)O | C15H12O3S
